US05364866
To 3-acetamidophenol (15.1 g) in dichloromethane (500 ml, dry) was added potassium carbonate (20 g) and then 1,3-dibromopropane (30 g). The resulting mixture was heated at reflux for 6 hours and then overnight at room temperature. After an additional 24 hours, the reaction was complete. Solids were filtered from the reaction mixture, and the solution was concentrated to an oil, which was purified to yield 3-(3-acetamidophenoxy)propyl bromide, 13.2 g.

reactant | 3-acetamidophenol | 15.1 g | C(C)(=O)NC=1C=C(C=CC1)O | C8H9NO2
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | 30 g | BrCCCBr | C3H6Br2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 3-(3-acetamidophenoxy)propyl bromide | C(C)(=O)NC=1C=C(OCCCBr)C=CC1 | C11H14BrNO2
